US04146624
2,8-Bis(piperidinoacetyl)dibenzofuran dihydrochloride dihydrate
A mixture of 19.5 g (0.06 mole) of 2,8-bis(chloroacetyl)dibenzofuran [M. Tomita, J. Pharm. Soc. Japan 56, 906-912 (1936)] 41.7 g (0.49 mole) of piperidine and 21.6 g (0.13 mole) of potassium iodide was refluxed in 200 ml of butanone for 15 minutes then maintained at room temperature for about 18 hours. The reaction mixture was diluted with 1 l. of water and extracted with ether. The ether solution was washed with several portions of water, dried over anhydrous magnesium sulfate and treated with ethereal HCl to give the desired product which was recrystallized from methanol-butanone. M.P. 306°-308° C. (dec.), λmaxH2O 254, E1cm1% 1230.

reactant | 2,8-bis(chloroacetyl)dibenzofuran | 0.06 mole, 19.5 g | ClCC(=O)C1=CC2=C(OC3=C2C=C(C=C3)C(CCl)=O)C=C1 | C16H10Cl2O3
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | potassium iodide | 0.13 mole, 21.6 g | [I-].[K+]
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 2,8-Bis(piperidinoacetyl)dibenzofuran dihydrochloride dihydrate | O.O.Cl.Cl.N1(CCCCC1)CC(=O)C1=CC2=C(OC3=C2C=C(C=C3)C(CN3CCCCC3)=O)C=C1 | InChI=1S/C26H30N2O3.2ClH.2H2O/c29-23(17-27-11-3-1-4-12-27)19-7-9-25-21(15-19)22-16-20(8-10-26(22)31-25)24(30)18-28-13-5-2-6-14-28;;;;/h7-10,15-16H,1-6,11-14,17-18H2;2*1H;2*1H2
